US05736487
28(a) 2-Bromomethylbenzoxazole
509.8 mg of dibenzoyl peroxide were added to a solution of 56 ml of 2-methylbenzoxazole and 18.73 g of N-bromosuccinimide in 20 ml of carbon tetrachloride at room temperature and the resulting mixture was stirred under reflux for 6 hours. At the end of this time, the reaction mixture was filtered and the resulting filtrate was concentrated by evaporation under reduced pressure to give a crude crystalline solid. This was dissolved in ethyl acetate and then washed consecutively with a saturated aqueous sodium sulfite solution, water and a saturated aqueous sodium chloride solution and then dried over anhydrous sodium sulfate. The solvent was then removed by evaporation under reduced pressure to give a crude residue which was purified by column chromatography through silica gel using a 10:1 by volume mixture of hexane and ethyl acetate to give 3.34 g (yield 37%) of the title compound as an oil.

reactant | dibenzoyl peroxide | 509.8 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | 2-methylbenzoxazole | 56 ml | CC=1OC2=C(N1)C=CC=C2 | C8H7NO
reactant | N-bromosuccinimide | 18.73 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 20 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Bromomethylbenzoxazole | 3.34 g, yield 37% | BrCC=1OC2=C(N1)C=CC=C2 | C8H6BrNO
